US06344449B1
Tert.-butyl β,β-bis-(ethoxycarbonyl)-3,5-dimethylbenzene-butanoate
To a solution of 13.8 g (50.2 mMol) of diethyl [(1,1-dimethylethoxycarbonyl)methyl]-malonoate in 400 ml of anhydrous tetrahydrofuran, 2.3 g (52.7 mMol) of sodium hydride was added whilst being externally cooled with iced water. After stirring for 30 minutes, and maintaining a reaction temperature of 0 to +5° C., the solution of 10.0 g (50.2 mMol) of 3,5-dimethylbenzylbromide in 80 ml tetrahydrofuran was added dropwise and the mixture allowed to warm to room temperature within 14 hours. The reaction mixture was freed from the solvent in vacuo, 200 ml of 10% citric acid was added to the residue and the resulting mixture was thoroughly extracted with ethyl acetate. After the usual working up, the combined extracts yielded 19.7 g (100% of theory) of a colourless oil of Rf=0.67 (eluant: dichloromethane), which was used in the following steps without further purification.

reactant | diethyl [(1,1-dimethylethoxycarbonyl)methyl]-malonoate | 50.2 mMol, 13.8 g | CC(C)(OC(=O)CC(C(=O)OCC)C(=O)OCC)C | C13H22O6
reactant | sodium hydride | 52.7 mMol, 2.3 g | [H-].[Na+]
reactant | 3,5-dimethylbenzylbromide | 50.2 mMol, 10.0 g | CC=1C=C(CBr)C=C(C1)C | C9H11Br
reactant | citric acid | 200 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Tert.-butyl β,β-bis-(ethoxycarbonyl)-3,5-dimethylbenzene-butanoate | C(C)OC(=O)C(CC(=O)OC(C)(C)C)(CC1=CC(=CC(=C1)C)C)C(=O)OCC | C22H32O6
